US07056932B2
According to general procedure C, but using 2.2 eq. of BOP coupling reagent and adding the amine component after a delay time of 1 h, (RS)-N-(ethoxy-ethoxycarbonyl-methyl)-6-fluoro-phthalamic acid and its regioisomer (RS)-N-(ethoxy-ethoxycarbonyl-methyl)-3-fluoro-phthalamic acid was reacted with [1-amino-1-(4-aminomethyl-phenyl)-meth-(Z)-ylidene]-carbamic acid benzyl ester to give (RS)-[1-amino-1-(4-{[2-ethoxy-2-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetylamino]-methyl}-phenyl)-meth-(Z)-ylidene]-carbamic acid benzyl ester, MS 533.4 ([M+H]+).

reactant | BOP | 2.2 eq. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (RS)-N-(ethoxy-ethoxycarbonyl-methyl)-6-fluoro-phthalamic acid | C(C)OC(NC(C=1C(C(=O)O)=C(C=CC1)F)=O)C(=O)OCC | C14H16FNO6
reactant | (RS)-N-(ethoxy-ethoxycarbonyl-methyl)-3-fluoro-phthalamic acid | C(C)OC(NC(C=1C(C(=O)O)=CC=CC1F)=O)C(=O)OCC | C14H16FNO6
reactant | [1-amino-1-(4-aminomethyl-phenyl)-meth-(Z)-ylidene]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(\N=C(\C1=CC=C(C=C1)CN)/N)=O | C16H17N3O2
product | (RS)-[1-amino-1-(4-{[2-ethoxy-2-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetylamino]-methyl}-phenyl)-meth-(Z)-ylidene]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(\N=C(\C1=CC=C(C=C1)CNC(C(N1C(C2=CC=CC(=C2C1=O)F)=O)OCC)=O)/N)=O | C28H25FN4O6
